US08119795B2
1.2 92.6 g of potassium carbonate are added to a solution of 80 g of methyl 5-bromo-2,4-dihydroxybenzoate in 1 l of acetonitrile, and 77 ml of benzyl bromide are added dropwise. The mixture is heated for 3 hours and cooled, the solvent is removed, and the residue is subjected to conventional work-up, giving 150 g of methyl 5-bromo-2,4-dibenzyloxybenzoate (crude product).

reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | methyl 5-bromo-2,4-dihydroxybenzoate | 80 g | BrC=1C(=CC(=C(C(=O)OC)C1)O)O | C8H7BrO4
reactant | benzyl bromide | 77 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 1 l | C(C)#N | C2H3N
product | methyl 5-bromo-2,4-dibenzyloxybenzoate | 150 g | BrC=1C(=CC(=C(C(=O)OC)C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H19BrO4
